### PR TITLE
[Merged by Bors] - feat(Factorial): k! divides the product of any k successive integers

### PR DESCRIPTION
**Pull request by Julian**
Co-authored-by: Aaron Hill <aa1ronham@gmail.com>
Co-authored-by: Matej Penciak <matej.penciak@gmail.com>
Co-authored-by: Austin Letson <waustinletson@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Factorial/BigOperators.lean [hunk 1]
```diff
@@ -41,4 +42,35 @@ theorem descFactorial_eq_prod_range (n : ℕ) : ∀ k, n.descFactorial k = ∏ i
...
+/-- `k!` divides the product of any `k` successive integers. -/
+lemma factorial_coe_dvd_prod (k : ℕ) (n : ℤ) : (k ! : ℤ) ∣ ∏ i ∈ range k, (n + i) := by
+  by_cases hn : n < 0
+  · by_cases hnk : 0 < n + k
+    · have : ∏ i ∈ range k, (n + ↑i) = 0 := prod_eq_zero_iff.mpr <| by
+        have ⟨negn, _⟩ : ∃ (negn : ℕ), -n = ↑negn := Int.eq_ofNat_of_zero_le <| by linarith
+        exact ⟨negn, by rw [mem_range]; omega⟩
+      rw [this]
+      exact (k ! : ℤ).dvd_zero
+    · have prod_eq : ∏ x ∈ range k, |n + ↑x| =  ∏ x ∈ range k, -(n + ↑x) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorial/BigOperators.lean:62]:
```suggestion
    · have prod_eq : ∏ x ∈ range k, |n + ↑x| = ∏ x ∈ range k, -(n + ↑x) := by
```

File: Mathlib/Data/Nat/Factorial/BigOperators.lean [hunk 2]
```diff
@@ -41,4 +42,35 @@ theorem descFactorial_eq_prod_range (n : ℕ) : ∀ k, n.descFactorial k = ∏ i
...
+  zify [x.ascFactorial_eq_prod_range k] at hdivk
+  rwa [hx]
+
+/-- `k!` divides the product of any `k` successive integers. -/
+lemma factorial_coe_dvd_prod (k : ℕ) (n : ℤ) : (k ! : ℤ) ∣ ∏ i ∈ range k, (n + i) := by
+  by_cases hn : n < 0
+  · by_cases hnk : 0 < n + k
+    · have : ∏ i ∈ range k, (n + ↑i) = 0 := prod_eq_zero_iff.mpr <| by
+        have ⟨negn, _⟩ : ∃ (negn : ℕ), -n = ↑negn := Int.eq_ofNat_of_zero_le <| by linarith
+        exact ⟨negn, by rw [mem_range]; omega⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorial/BigOperators.lean:59]: Could be
```suggestion
        use n.natAbs
        simp [abs_of_nonpos, hn.le, ← Int.ofNat_lt, hnk, neg_lt_iff_pos_add, add_comm]
```

Comment (Julian) [reply Mathlib/Data/Nat/Factorial/BigOperators.lean]: Nice, thanks!

File: Mathlib/Data/Nat/Factorial/BigOperators.lean [hunk 3]
```diff
@@ -41,4 +42,35 @@ theorem descFactorial_eq_prod_range (n : ℕ) : ∀ k, n.descFactorial k = ∏ i
...
+        rw [abs_of_neg]
+        linarith
+      rw [← dvd_abs, abs_prod, prod_eq, ← prod_range_reflect]
+      simp_rw [neg_add_rev, add_comm]
+      rw [show ∏ j ∈ range k, (-n + -↑(k - 1 - j)) = ∏ j ∈ range k, (-n + -↑(k - 1) + j) from ?_]
+      · exact factorial_coe_dvd_prod_of_nonneg k (-n + -↑(k - 1)) (by omega)
+      · refine prod_congr rfl fun _ ↦ ?_
+        rw [mem_range]
+        omega
+  · exact factorial_coe_dvd_prod_of_nonneg k n <| not_lt.mp hn
```
Comment (tb65536) [inline Mathlib/Data/Nat/Factorial/BigOperators.lean:74]: You can use mod to shorten to proof to the point where I think the helper lemma is unnecessary.
```suggestion
  rw [Int.dvd_iff_emod_eq_zero, Finset.prod_int_mod]
  simp_rw [← Int.emod_add_emod n]
  rw [← Finset.prod_int_mod, ← Int.dvd_iff_emod_eq_zero]
  have hn : 0 ≤ n % k ! := Int.emod_nonneg n <| Int.natCast_ne_zero.mpr k.factorial_ne_zero
  obtain ⟨x, hx⟩ := Int.eq_ofNat_of_zero_le hn
  have hdivk := x.factorial_dvd_ascFactorial k
  zify [x.ascFactorial_eq_prod_range k] at hdivk
  rwa [hx]
```

Comment (Julian) [reply Mathlib/Data/Nat/Factorial/BigOperators.lean:74]: Wow, very nice, thank you!

File: Mathlib/Data/Nat/Factorial/BigOperators.lean [hunk 4]
```diff
@@ -41,4 +42,15 @@ theorem descFactorial_eq_prod_range (n : ℕ) : ∀ k, n.descFactorial k = ∏ i
...
+/-- `k!` divides the product of any `k` successive integers. -/
+lemma factorial_coe_dvd_prod (k : ℕ) (n : ℤ) : (k ! : ℤ) ∣ ∏ i ∈ range k, (n + i) := by
+  rw [Int.dvd_iff_emod_eq_zero, Finset.prod_int_mod]
+  simp_rw [← Int.emod_add_emod n]
+  rw [← Finset.prod_int_mod, ← Int.dvd_iff_emod_eq_zero]
+  have hn : 0 ≤ n % k ! := Int.emod_nonneg n <| Int.natCast_ne_zero.mpr k.factorial_ne_zero
+  obtain ⟨x, hx⟩ := Int.eq_ofNat_of_zero_le hn
+  have hdivk := x.factorial_dvd_ascFactorial k
+  zify [x.ascFactorial_eq_prod_range k] at hdivk
+  rwa [hx]
```
Comment (adomani) [inline Mathlib/Data/Nat/Factorial/BigOperators.lean:54]:
```suggestion
  have hn : 0 ≤ n % k ! := Int.emod_nonneg n <| Int.natCast_ne_zero.mpr k.factorial_ne_zero
  obtain ⟨x, hx⟩ := Int.eq_ofNat_of_zero_le hn
  have hdivk := x.factorial_dvd_ascFactorial k
  zify [x.ascFactorial_eq_prod_range k] at hdivk
  rwa [← Finset.prod_int_mod, ← Int.dvd_iff_emod_eq_zero, hx]
```
Just a minor golf.

File: Mathlib/Data/Nat/Factorial/BigOperators.lean [hunk 5]
```diff
@@ -41,4 +42,15 @@ theorem descFactorial_eq_prod_range (n : ℕ) : ∀ k, n.descFactorial k = ∏ i
   | 0 => rfl
   | k + 1 => by rw [descFactorial, prod_range_succ, mul_comm, descFactorial_eq_prod_range n k]
 
+/-- `k!` divides the product of any `k` successive integers. -/
```
Comment (adomani) [inline Mathlib/Data/Nat/Factorial/BigOperators.lean:45]:
```suggestion
/-- `k!` divides the product of any `k` consecutive integers. -/
```
I think that this is a more standard way of expressing this, maybe.

**Comment by adomani** [comment]
Thanks!

If you like the changes, feel free to implement them!

bors d+

**Comment by Julian** [comment]
Thanks everyone!

bors r+
